US07514436B2
Synthesis of [4-(6-Phenethylaminopyridazin-3-yl)Piperazin-1-yl]-(2-Trifluoromethylphenyl)Methanone
Following the procedure set forth above in Example 1, only making variations using 2-phenylethylamine to replace N-methyl-2-phenylethylamine to react with [4-(6-chloropyridazin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid (11.8 mg, 15% yield). 1H NMR (CDCl3, 400 MHz) δ 7.74, 7.62-7.68, 7.52-7.57, 7.33-7.37, 7.28-7.32, 7.40-7.46, 6.83, 6.18, 3.95, 3.68-3.70, 3.30-3.50, 2.96. MS (ES+) m/z 456.4 (M+1).

reactant | 2-phenylethylamine | C1(=CC=CC=C1)CCN | C8H11N
reactant | N-methyl-2-phenylethylamine | CNCCC1=CC=CC=C1 | C9H13N
reactant | [4-(6-chloropyridazin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone | ClC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H14ClF3N4O
product | [4-(6-Phenethylaminopyridazin-3-yl)Piperazin-1-yl]-(2-Trifluoromethylphenyl)Methanone | C(CC1=CC=CC=C1)NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C24H24F3N5O
